US06515124B2
N,N-Dimethylaminopyridine (7.6 mg, 0.06 mmol) was added to a mixture of 1H-indole-6-carboxylic acid (100 mg, 0.62 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (131 mg, 0.68 mmol) and methanol (1 mL, 24.7 mmol) in dichloromethane (2 mL). The mixture was allowed to stir at room temperature overnight, then the solvent was evaporated and ethyl acetate (20 mL) was added. The solution was washed with 1N hydrochloric acid solution (2×15 mL), saturated sodium bicarbonate solution (15 mL) and brine (10 mL), dried (MgSO4), filtered and evaporated in vacuo to give 1H-indole-4-carboxylic acid methyl ester (85.4 mg, 79% yield) as a pale yellow solid.

reactant | 1H-indole-6-carboxylic acid | 0.62 mmol, 100 mg | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.68 mmol, 131 mg | Cl.CN(CCCN=C=NCC)C
reactant | methanol | 24.7 mmol, 1 mL | CO | CH4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1H-indole-4-carboxylic acid methyl ester | 85.4 mg, 79% yield | COC(=O)C=1C=2C=CNC2C=CC1 | C10H9NO2
